US04409215
To a suspension of phosphorus pentachloride (16.1 g) and pyridine (6.3 ml) in methylene chloride (100 ml) were added benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate (22 g) and methylene chloride (100 ml) at 5° C., and the mixture was stirred at the same temperature for an hour. After cooling to -20° C., methanol (10 ml) was added thereto, followed by stirring at -10° C. for half an hour. To this mixture was added water (10 ml) and stirred for 10 minutes. To the separated methylene chloride was added an aqueous solution of sodium bicarbonate until the pH value of the aqueous solution became 5.0, and the mixture was shaken. After separating out the organic layer, it was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue obtained was pulverized with diisopropyl ether to give benzhydryl 7-amino-3-allylthiomethyl-3-cephem-4-carboxylate (6.5 g).

reactant | phosphorus pentachloride | 16.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate | 22 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSCC=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H30N2O4S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | pyridine | 6.3 ml | N1=CC=CC=C1 | C5H5N
product | benzhydryl 7-amino-3-allylthiomethyl-3-cephem-4-carboxylate | 6.5 g | NC1[C@@H]2N(C(=C(CS2)CSCC=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H24N2O3S2
